US09227930B2
Synthesis of ethyl 2-diazo-4-(4-methoxyphenyl)-3-oxobutanoate (B)
Synthesis of B can be performed in analogy to the protocol in J. Org. Chem. 2001, 66, 2509-2511. At 0° C. a solution of sodium azide (2.287 g, 35.2 mmol) in a minimum amount of water was added to a solution of tosylchloride (6.71 g, 35.2 mmol) in acetone (40 ml). The reaction mixture was stirred at 0° C. for 2 h. Acetone was evaporated and the remaining aqueous residue was extracted three times with Et2O, dried over MgSO4, filtrated and evaporated to provide the tosyl azide as a clear oil. The freshly prepared tosyl azide was dissolved in DCM (40.0 ml), a mixture of commercially available ethyl 4-(4-methoxyphenyl)-3-oxobutanoate (5.54 g, 23.45 mmol) and triethylamine (4.90 ml, 35.2 mmol) in DCM (dichloromethane) was added, and stirred at room temperature over night. The product as evaporated and purified by flash chromatography on 80 g SiO2 using 20% EtOAc in cyclohexane to obtain 4.03 g of the desired product (15.36 mM; yield: 65%).

reactant | tosyl azide | S(=O)(=O)(C1=CC=C(C)C=C1)N=[N+]=[N-] | C7H7N3O2S
reactant | ethyl 4-(4-methoxyphenyl)-3-oxobutanoate | 23.45 mmol, 5.54 g | COC1=CC=C(C=C1)CC(CC(=O)OCC)=O | C13H16O4
reactant | triethylamine | 35.2 mmol, 4.90 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 40.0 ml | ClCCl | CH2Cl2
product | ethyl 2-diazo-4-(4-methoxyphenyl)-3-oxobutanoate | 15.36 mM, 4.03 g, yield: 65% | [N+](=[N-])=C(C(=O)OCC)C(CC1=CC=C(C=C1)OC)=O | C13H14N2O4
